US07067657B2
(a) (R)-2-[2-Amino-5-mercapto-thiazolo[4,5-d]pyrimidin-7-ylamino]-4-methyl-pentan-1-ol
Liquid ammonia (140 mL) was condensed into a 250 mL flask (dry ice/acetone cooling) is and (R)-2-(2-amino-5-phenylmethylthio-thiazolo[4,5-d]pyrimidin-7-ylamino)-4-methyl-pentan-1-ol (WO 00/09511) (2.77 g, 7.11 mmol) was added in three portions. To the clear yellow solution was added an excess of sodium metal in small pieces, until a blue colour persisted. When the blue colour had remained for 25 seconds, solid NH4Cl was added to quench the reaction. The NH3 solvent was removed (N2), and the remains were dissolved in H2O (ca 70 mL), the mixture filtered, and the resulting clear solution neutralized to pH ca 7 with dilute HCl. The precipitated solid was filtered, washed with H2O and CH3CN, and dried at 40° C. under vacuum overnight to give 1.98 g (93%) of a light yellow solid.

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | (R)-2-(2-amino-5-phenylmethylthio-thiazolo[4,5-d]pyrimidin-7-ylamino)-4-methyl-pentan-1-ol | 7.11 mmol, 2.77 g | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)SCC2=CC=CC=C2)N1 | C18H23N5OS2
reactant | sodium | [Na] | Na
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ammonia | 140 mL | N | H3N
product | (R)-2-[2-Amino-5-mercapto-thiazolo[4,5-d]pyrimidin-7-ylamino]-4-methyl-pentan-1-ol | 1.98 g, 93% | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S)N1 | C11H17N5OS2
